US07067506B2
3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-N-(2-pyridin-2-yl-ethyl)-benzamide
To a stirred solution of 3-methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid (30 mg, 0.1 mmol) in 1 mL NMP at RT in a capped reaction vial was added HBTU (42 mg, 0.11 mmol). The suspension was stirred for 15 minutes and then treated with 2-ethylaminopyridine (13.2 μL, 0.11 mmol) followed by Hunigs Base (35 μL, 0.2 mmol). After stirring overnight, NMP was removed by bulb to bulb transfer at 70 ° C. under high vacuum and the residue stirred with a mixture of CH2Cl2 (10 mL) and 10% Na2CO3 (10 mL) until complete dissolution occurred. The organics were isolated, dried (MgSO4), filtered and concentrated. The residue was triturated with EtOAc to produce a solid which was isolated by filtration (71 % yield).

reactant | 3-methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid | 0.1 mmol, 30 mg | COC=1C=C(C(=O)O)C=CC1NC(=O)NC1=NC=C(N=C1)C | C14H14N4O4
reactant | HBTU | 0.11 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-ethylaminopyridine | 0.11 mmol, 13.2 μL | C(C)NC1=NC=CC=C1 | C7H10N2
reactant | Hunigs Base | 0.2 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-N-(2-pyridin-2-yl-ethyl)-benzamide | 71 % yield | COC=1C=C(C(=O)NCCC2=NC=CC=C2)C=CC1NC(=O)NC1=NC=C(N=C1)C | C21H22N6O3
